US03957833
By utilizing the procedure of Example 19, by reacting 3-methyl-4-hydroxybenzoic acid methyl ester with 1-bromo-3,7-dimethyl-2,6-octadiene, there is obtained 3-methyl-4-[(3,7-dimethyl-2,6-octadienyl)oxy]benzoic acid methyl ester; nD28 = 1.5248.

reactant | 3-methyl-4-hydroxybenzoic acid methyl ester | COC(C1=CC(=C(C=C1)O)C)=O | C9H10O3
reactant | 1-bromo-3,7-dimethyl-2,6-octadiene | BrCC=C(CCC=C(C)C)C | C10H17Br
product | 3-methyl-4-[(3,7-dimethyl-2,6-octadienyl)oxy]benzoic acid methyl ester | COC(C1=CC(=C(C=C1)OCC=C(CCC=C(C)C)C)C)=O | C19H26O3
